US08937195B2
Synthesis of chloro(3,5-di-tert-butylphenyl)bis(3,5-dimethylphenyl)silane
Under a nitrogen atmosphere, to a diethyl ether solution (74 mL) of trichloro(3,5-di-tert-butylphenyl)silane (12.95 g, 40.00 mmol), a solution of 3,5-dimethylphenyllithium (11.09 g, 98.96 mmol) in diethyl ether (95 mL) was added dropwise at −78° C. After the mixture was gradually warmed to room temperature, stirring was performed at room temperature for 2 hours. After completion of the reaction, the solvent was removed under reduced pressure. Thereafter, hexane was added to the residue, and insoluble materials were removed by filtration. The solvent was removed from the filtrate under reduced pressure to quantitatively obtain chloro(3,5-di-tert-butylphenyl)bis(3,5-dimethylphenyl)silane.

reactant | trichloro(3,5-di-tert-butylphenyl)silane | 40.00 mmol, 12.95 g | Cl[Si](C1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C)(Cl)Cl | C14H21Cl3Si
reactant | 3,5-dimethylphenyllithium | 98.96 mmol, 11.09 g | CC=1C=C(C=C(C1)C)[Li]
solvent | diethyl ether | 95 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 74 mL | C(C)OCC | C4H10O
product | chloro(3,5-di-tert-butylphenyl)bis(3,5-dimethylphenyl)silane | Cl[Si](C1=CC(=CC(=C1)C)C)(C1=CC(=CC(=C1)C)C)C1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C | C30H39ClSi
